US09120819B2
Stage A: [3,6,9,12,15-Pentaoxaheptadecane-1,17-diylbis(oxyimidazo[1,5-a]pyridine-8,3-diyl)]bis[(4-amino-3-methoxyphenyl)methanone]
By following the process described in Stage A of Example 8, Example 10 is prepared from (4-amino-3-methoxyphenyl)(8-hydroxyimidazo[1,5-a]pyridin-3-yl)-methanone (described in Patent Application WO2006097625) with 1,17-diiodo-3,6,9,12,15-pentaoxaheptadecane (Example R2). After purification by flash chromatography on silica gel (dichloromethane/acetone gradient=90/10 to 70/30), 0.93 g (27%) of a yellow powder is obtained.

reactant | (4-amino-3-methoxyphenyl)(8-hydroxyimidazo[1,5-a]pyridin-3-yl)-methanone | NC1=C(C=C(C=C1)C(=O)C1=NC=C2N1C=CC=C2O)OC | C15H13N3O3
reactant | 1,17-diiodo-3,6,9,12,15-pentaoxaheptadecane | ICCOCCOCCOCCOCCOCCI | C12H24I2O5
product | [3,6,9,12,15-Pentaoxaheptadecane-1,17-diylbis(oxyimidazo[1,5-a]pyridine-8,3-diyl)]bis[(4-amino-3-methoxyphenyl)methanone] | 0.93 g, 27% | C(COCCOCCOCCOCCOCCOC=1C=2N(C=CC1)C(=NC2)C(=O)C2=CC(=C(C=C2)N)OC)OC=2C=1N(C=CC2)C(=NC1)C(=O)C1=CC(=C(C=C1)N)OC | C42H48N6O11
